US03979516
C. 3-Methylthio-5,6-bis(4-fluorophenyl)-1,2,4-triazine.-
3-Mercapto-5,6-bis(4-fluorophenyl)-1,2,4-triazine, 16.6 g. (0.05 mole), was reacted with 7 g. (0.05 mole) of methyl iodide in 75 ml. of ethanol containing 2 g. (0.05 mole) of sodium hydroxide by the method of Example 4(B). The yield was 13.2 g. of 3-methylthio-5,6-bis(4-fluorophenyl)-1,2,4-triazine, mp about 132°-135°C., after crystallization from ethanol.

reactant | 3-Mercapto-5,6-bis(4-fluorophenyl)-1,2,4-triazine | SC=1N=NC(=C(N1)C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C15H9F2N3S
reactant | methyl iodide | 0.05 mole | CI | CH3I
reactant | sodium hydroxide | 0.05 mole | [OH-].[Na+]
solvent | ethanol | 2 g | C(C)O | C2H6O
product | 3-Methylthio-5,6-bis(4-fluorophenyl)-1,2,4-triazine | CSC=1N=NC(=C(N1)C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C16H11F2N3S
